US07534797B2
7-Cyclobutyl-5-iodo-3H-imidazo[5,1-f][1,2,4]triazin-4-one
A solution of 7-cyclobutyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one (789 mg, 4.15 mmol) and N-iodosuccinimide (933 mg, 4:15 mmol) in anhydrous DMF (40 mL) was stirred overnight at rt. An additional 4 equiv of NIS was added and reaction was heated to 55° C. for 6 h. The reaction mixture was concentrated in vacuo and partitioned between DCM and H2O and separated. The aqueous layer was washed with DCM (3×) and the combined organic fractions were washed with 1M sodium thiosulfate (Na2S2O3) (1×), brine (1×), dried over sodium sulfate (Na2SO4), filtered, and concentrated in vacuo. The solid was triturated with 20% EtOAc in DCM and filtered through a fritted Buchner funnel resulting in the title compound as an off-white solid; 1H NMR (DMSO-d6, 400 MHz) δ 1.84-1.96 (m, 1H), 1.98-2.13 (m, 1H), 2.25-2.43 (m, 4H), 3.84-3.96 (m, 1H), 7.87 (s, 1H); MS (ES+): m/z 317.02 (100) [MH+], HPLC: tR=2.62 min (MicromassZQ, polar—5 min).

reactant | 7-cyclobutyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 4.15 mmol, 789 mg | C1(CCC1)C1=NC=C2C(NC=NN21)=O | C9H10N4O
reactant | N-iodosuccinimide | 15 mmol, 933 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | NIS | 4 equiv | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 7-Cyclobutyl-5-iodo-3H-imidazo[5,1-f][1,2,4]triazin-4-one | C1(CCC1)C1=NC(=C2C(NC=NN21)=O)I | C9H9IN4O
